US08278324B2
1,1-Dimethylethyl 5-methyl-6-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a solution of 1,1-dimethylethyl 6-hydroxy-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate (preparation 14; 263 mg; 1.00 mmol) in dichloromethane (5 ml) at −30° C. under nitrogen was added pyridine (0.162 ml; 2.00 mmol) followed by slow addition of trifluoromethanesulphonic anhydride (0.186 ml; 1.10 mmol). After 0.5 h between −30° C. and −20° C., the solvent was removed, and the residue taken up in ethyl acetate. The solution was washed with 1N hydrochloric acid followed by saturated sodium bicarbonate solution, dried (MgSO4) and concentration in vacuo to give the title compound as a pale yellow oil (368 mg).

reactant | 1,1-dimethylethyl 6-hydroxy-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 1.00 mmol, 263 mg | OC=1C(=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)C | C15H21NO3
reactant | pyridine | 2.00 mmol, 0.162 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 1.10 mmol, 0.186 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 5-methyl-6-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 368 mg | CC1=C2CCN(CC2=CC=C1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C16H20F3NO5S
